US09034900B2
Step 1: ethyl 6,7-dihydro-5H-cyclopenta[c]pyridine-1-carboxylate
Ethyl 1,2,4-triazine-3-carboxylate (7 g, 45.8 mmol), cyclopentanone (4.9 mL, 55.0 mmol), and pyrrolidine (4.6 mL, 55.0 mmol) in toluene (100 mL) were heated to reflux for 12 h. The mixture was purified by column on silica gel chromatography (PE/EtOAc=5:1) to give the title compound (2.02 g, 25%) as a brown oil. LCMS: 192 (M+1)+

reactant | Ethyl 1,2,4-triazine-3-carboxylate | 45.8 mmol, 7 g | N1=NC(=NC=C1)C(=O)OCC | C6H7N3O2
reactant | cyclopentanone | 55.0 mmol, 4.9 mL | C1(CCCC1)=O | C5H8O
reactant | pyrrolidine | 55.0 mmol, 4.6 mL | N1CCCC1 | C4H9N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 6,7-dihydro-5H-cyclopenta[c]pyridine-1-carboxylate | 2.02 g, 25% | C1(=NC=CC2=C1CCC2)C(=O)OCC | C11H13NO2
